US05017724
A mixture of 15 ml of acetic anhydride and 50 ml of acetic acid was ice-cooled and thereto was added dropwise 10 ml of nitric acid (d=1.38). After stirring for 1 hour, thereto was added dropwise an acetic acid solution containing 10 g of 8-hydroxy-5-methyl-1,2,3,4,4a,9a-hexahydro-9-fluorenone in 100 ml of acetic acid. After stirring for 30 minutes, the ice bath was removed and the solution was warmed to an inner temperature of 15° C. To this solution was added 150 ml of diethyl ether, followed by stirring under ice-cooling. The resulting precipitate was collected by filtration to obtain 8 g of 8-hydroxy-5-methyl-7-nitro-1,2,3,4,4a,9a-hexahydro-9-fluorenone of yellowish green powdery crystal.

reactant | acetic anhydride | 15 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | 10 ml | [N+](=O)(O)[O-] | HNO3
reactant | 8-hydroxy-5-methyl-1,2,3,4,4a,9a-hexahydro-9-fluorenone | 10 g | OC=1C=CC(=C2C3CCCCC3C(C12)=O)C | C14H16O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 8-hydroxy-5-methyl-7-nitro-1,2,3,4,4a,9a-hexahydro-9-fluorenone | 8 g | OC=1C(=CC(=C2C3CCCCC3C(C12)=O)C)[N+](=O)[O-] | C14H15NO4
